2191-05-17 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2191-5-16**] 12:00 PM
 PERCUTANEOUS TRACHEOSTOMY - At [**2191-5-16**] 12:08 PM
 ULTRASOUND - At [**2191-5-16**] 08:16 PM
   US of BLE
   changed her trach to a 6.0 cuffed Portex trach
   repeat CXR c/w pulmonary edema
   - lasix 40mg IV
   - BP control with 20mg IV labetalol, lasix 40mg, morphine, MAP 60s,
   sats 99% on pressure support, peep 5, ps 15
   CT showed LLL infiltrate vs atelectasis and small bowel incarceration,
   surgery consulting- no acute surgical issue for now, [**Doctor Last Name **] to staff
   in AM
   -Frank red blood via ETT following suctioning, resolved
   LE Duplex done
 no DVT
   Allergies:
   Vancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Linezolid - [**2191-5-16**] 08:16 PM
   Cefipime - [**2191-5-17**] 04:00 AM
   Infusions:
   Other ICU medications:
   Labetalol - [**2191-5-16**] 02:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-17**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 74 (74 - 110) bpm
   BP: 115/50(65) {89/43(61) - 184/95(120)} mmHg
   RR: 18 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,367 mL
                                                                    124 mL
   PO:
             TF:
   IVF:
                                                                    467 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  1,455 mL
                                                                    300 mL
   Urine:
                                                                  1,455 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -88 mL
                                                                   -176 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 390 (367 - 390) mL
   PS : 15 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 6.2 L/min
   Physical Examination
   VS: T97.9 HR 97 BP 168/86 RR 19 97% on 100% Trach mask
   GENERAL: obese, tachypnic, not speaking in full sentences, dry heaving
   HEENT: Normocephalic, atraumatic.  left pupil 3mm, right pupil 2mm both
   reactive to light, EOMI, dry mucous membranes
   Neck: obese, Supple, No LAD, unable to appreciate JVP
   CARDIAC: slightly tachycardic, regular rhythm, no appreciable murmur
   LUNGS: decreased breath sounds at the bases, no appreciable wheezing or
   crackles
   ABDOMEN: Obese, slightly distended but soft, umbilical hernia with
   palpable hard mass and what feels like gas filled bowel, diffuse
   tenderness to palpation, positive bowel sounds, no rebound or gurding.
   EXTREMITIES: 1+ pitting edema to the knees bilaterally, trace dp's
   bilaterally, cool extremities.
   SKIN: No rashes/lesions, ecchymoses.
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact. Preserved sensation
   throughout. 5/5 strength throughout. [**2-11**]+ reflexes, equal BL. Normal
   coordination. Gait assessment deferred
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   240 K/uL
   10.7 g/dL
   295 mg/dL
   1.1 mg/dL
   31 mEq/L
   5.2 mEq/L
   41 mg/dL
   96 mEq/L
   133 mEq/L
   31.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2191-5-16**]  12:26 PM
                             [**2191-5-17**]  02:59 AM
   WBC
   9.2
   Hct
   31.0
   Plt
   240
   Cr
   1.1
   TropT
   <0.01
   Glucose
   295
   Other labs: PT / PTT / INR:13.5/22.1/1.2, CK / CKMB /
   Troponin-T:41/7/<0.01, Differential-Neuts:93.5 %, Lymph:4.4 %, Mono:2.0
   %, Eos:0.0 %, D-dimer:1750 ng/mL, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.1 mg/dL
   Imaging: [**2191-5-17**] CT Chest/Abd/Pelvis (wet read):
   RLL opacity could reflect atelctasis/pneumonia. Borderline dilated
   fecalized small bowel loop in an anterior abdominal wall hernia with
   mild adjacent fat stranding, the hernia sac has a wide neck of
   approximately 6 cm, arguing against a high grade mechanical
   obstruction. Contrast passes just distal to it. If further clinical
   concern, serial radiographs to see further passage of contrast into
   colon may be considered. ([**First Name8 (NamePattern2) 8630**] [**Doctor Last Name 8631**] [**Numeric Identifier 8632**])
   [**2191-5-16**] LE Duplex:
   No DVT of the lower extremities.
   [**2191-5-16**] CXR:
   The current study demonstrates rapid development of bilateral
   widespread
   parenchymal opacities, consistent with rapidly developed
   moderate-to-severe
   pulmonary edema. The study is technically limited, and the lung bases
   were only partially included in the field of view, but bilateral
   pleural effusion
   is most likely present. The patient is after prior cardiac surgery.
   Tracheostomy tip is at the midline. No pneumothorax is seen.
   Microbiology: [**2191-5-16**] UCX: pending
   Assessment and Plan
 NAUSEA / VOMITING
 DYSPNEA (SHORTNESS OF BREATH)
 HEMOPTYSIS
 URINARY TRACT INFECTION (UTI)
   Ms. [**Known lastname 3007**] is a 54 yo F with PMH sarcoidosis, tracheostomy [**3-14**] upper
   airway obstruction, dCHF, DM1, pulmonary HTN, CAD, morbid obesity
   presenting with dyspnea, nausea and vomiting.
   .
   #Dyspnea - etiology unclear however ddx most likely pneumonia vs
   tracheobronchitis vs PE.  Aspiration pneumonia also possible given that
   she is also vomiting and has poor mobility.  Sputum cx from last
   admission with two colonies of pseudomonas, one sensitive to zosyn
   other with intermed sensi to zosyn.  No evidence of heart failure
   exacerbation on exam and BNP appears to be decreased compared with
   recent values making pulmonary edema unlikely cause for her presenting
   symptoms.  Also no evidence of pulmonary edema on CXR.  Sudden onset of
   dyspnea somewhat concerning for possiblity of PE with risk factors
   being morbid obesity and limited mobility.  She does not have any h/o
   DVT or PE in the past despite multpile admissions for dyspnea.  In
   addition, her partner reports a slower onset of symptoms with a
   productive cough.  Of note, after suctioning she did have frank blood,
   possibly [**3-14**] trauma from suctioning.
   -cover HAP with cefepime/linezolid,azithromycin
   -continue steroids for the time being
   -CTA to eval for PE and to eval lung parenchyma
   -continue guaifenesin
   -send sputum culture
   -flovent, albuterol, atrovent mdi
   -consider bronch if continues to require positive pressure ventillation
   and continue to have hemoptysis
   .
   #Hemoptysis - unclear etiology, possibly [**3-14**] trauma from suctioning vs
   underlying sarcoid lung disease.
   -monitor amount of hemoptysis
   -consider bronch if hemoptysis continues
   -CTA as above, may also help localize source of hemoptysis
   .
   #.Nausea, vomting - most likely due to migraine headache and
   gastroparesis.  Possibly also related to possible UTI on review of
   records she has had n/v with UTI in the past.  Cardiac ischemia also
   possible given her known CAD.  Other consideration incarcerated hernia
   given that the hernia site is firm to palpation and she is reporting
   increased tenderness at the site.
   -repeat EKG
   -trend CE's x3
   -reglan 10mg IV q6 standing
   -Zofran prn
   -CT abdomen/pelvis to further eval the hernia
   .
   #Urinary Tract Infection - UA on admission c/w UTI vs contamination
   from chronic foley, concern for possiblility that UA was not full
   treated on last admission as zosyn was not included on D/C medications.
   -antibiotics as above
   -f/u urine culture
   -change foley
   .
   # Headache: sx consistent with migraine.
   -reglan, morphine prn
   .
   # Type I Diabetes:
   -lantus 38 units qhs, hiss
   .
   # CAD: concern for possible slight EKG changes on admission
   -repeat EKG
   -continue ASA, plavis, BB, statin
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-5-16**] 12:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2191-05-18 07:58:00 Physician Resident Progress Note
Chief Complaint: hypoxemia
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2191-5-17**] 07:56 PM
   [**5-17**]
   Transitioned from PPV to trach mask with good oxygen saturations.
   Seen by surgery, no indication for surgical procedure
   BP and HR stable, did not require additional diuresis
   Antibiotics discontinued as no evidence of infiltrate on CT chest
   NG tube d/c'd, restarted po diet
   foley catheter changed
   Allergies:
   Vancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-17**] 04:00 AM
   Linezolid - [**2191-5-17**] 07:50 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2191-5-17**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2191-5-17**] 07:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-18**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 71 (61 - 78) bpm
   BP: 119/45(64) {97/45(57) - 146/70(82)} mmHg
   RR: 15 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    830 mL
                                                                     99 mL
   PO:
             TF:
   IVF:
                                                                    590 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                  1,017 mL
                                                                    295 mL
   Urine:
                                                                  1,017 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -187 mL
                                                                   -196 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 375 (375 - 375) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: ///34/
   Ve: 6.8 L/min
   Physical Examination
   Gen: awake and alert, speaking through trach
   HEENT: EOMI, anicteric sclera, MMM
   Neck: supple with trach intact
   Heart: distant HS, no obvious m/r/g
   Lungs: distant sounds, decreased throughout
   Abd: obese soft NT/ND + BS
   Ext: warm and well perfused
   Labs / Radiology
   230 K/uL
   10.2 g/dL
   69 mg/dL
   1.1 mg/dL
   34 mEq/L
   4.1 mEq/L
   46 mg/dL
   99 mEq/L
   139 mEq/L
   28.9 %
   10.7 K/uL
        [image002.jpg]
                             [**2191-5-16**]  12:26 PM
                             [**2191-5-17**]  02:59 AM
                             [**2191-5-18**]  03:43 AM
   WBC
   9.2
   10.7
   Hct
   31.0
   28.9
   Plt
   240
   230
   Cr
   1.1
   1.1
   TropT
   <0.01
   Glucose
   295
   69
   Other labs: PT / PTT / INR:13.5/22.1/1.2, CK / CKMB /
   Troponin-T:41/7/<0.01, Differential-Neuts:93.5 %, Lymph:4.4 %, Mono:2.0
   %, Eos:0.0 %, D-dimer:1750 ng/mL, Ca++:9.4 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.5 mg/dL
   Microbiology: urine cx- 100,000 gnr
   Assessment and Plan
 NAUSEA / VOMITING
 DYSPNEA (SHORTNESS OF BREATH)
 HEMOPTYSIS
 URINARY TRACT INFECTION (UTI)
   Ms. [**Known lastname 3007**] is a 54 yo F with PMH sarcoidosis, tracheostomy [**3-14**] upper
   airway obstruction, dCHF, DM1, pulmonary HTN, CAD, morbid obesity
   presenting with dyspnea, nausea and vomiting.
   .
   .
   #Dyspnea - etiology unclear however ddx most likely pneumonia vs
   tracheobronchitis vs PE.  Aspiration pneumonia also possible given that
   she is also vomiting and has poor mobility.  Sputum cx from last
   admission with two colonies of pseudomonas, one sensitive to zosyn
   other with intermed sensi to zosyn.  Her CXR was consistent with
   pulmonary edema on repeat examination..  She does not have any h/o DVT
   or PE in the past despite multpile admissions for dyspnea.  In
   addition, her partner reports a slower onset of symptoms with a
   productive cough.  Of note, after suctioning she did have frank blood,
   possibly [**3-14**] trauma from suctioning.
   -given CT chest findings not concerning for pneumonia will d/c abx
   -continue guaifenesin
   -send sputum culture
   -flovent, albuterol, atrovent mdi
   -consider bronch if continues to require positive pressure ventillation
   and continue to have hemoptysis
   - IP consult to eval trach
   .
   #Hemoptysis - unclear etiology, possibly [**3-14**] trauma from suctioning vs
   underlying sarcoid lung disease. Vs new trach collar placement
   -resolved, CT chest with no concern for pulmonary hemorrhage
   .
   #.Nausea, vomiting - most likely due to migraine headache and
   gastroparesis.  Possibly also related to possible UTI on review of
   records she has had n/v with UTI in the past.  Cardiac ischemia also
   possible given her known CAD.  Other consideration incarcerated hernia
   given that the hernia site is firm to palpation and she is reporting
   increased tenderness at the site.
   -CT showed small bowel hernia
   - reducible on exam today, surgery following
   .
   #Urinary Tract Infection - UA on admission c/w UTI vs contamination
   from chronic foley, concern for possiblility that UA was not full
   treated on last admission as zosyn was not included on D/C medications.
   -f/u urine culture with GNR
   -changed foley
   - hold Rx for now as asymptomatic
   .
   # Headache: sx consistent with migraine.
   -reglan, morphine prn
   .
   # Type I Diabetes:
   -increased lantus 38 units qhs, hiss
   .
   # CAD: concern for possible slight EKG changes on admission
   - ruled out for ACS
   -continue BB, statin
   - hold ASA and plavix given potential for procedures
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-5-16**] 12:21 PM
   Prophylaxis:
   DVT: heparin, boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2191-05-19 08:09:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   [**5-18**]
   - IP recs: use mucomyst and saline nebs, 3-5ml [**Hospital1 **] alternating.  Can
   cont cuffed trach for now, and change to "6 uncuffed" in AM if stable
   - Sputum cx: no organisms
   - NGT D/Cd
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsVancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Cefipime - [**2191-5-17**] 04:00 AM
   Linezolid - [**2191-5-17**] 07:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-18**] 08:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2191-5-19**] 08:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.4
C (97.5
   HR: 74 (66 - 90) bpm
   BP: 118/78(86) {115/48(65) - 159/78(120)} mmHg
   RR: 18 (12 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    899 mL
                                                                     50 mL
   PO:
                                                                    590 mL
             TF:
   IVF:
                                                                     39 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  3,065 mL
                                                                    850 mL
   Urine:
                                                                  3,065 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,166 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   211 K/uL
   10.7 g/dL
   107 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.3 mEq/L
   35 mg/dL
   100 mEq/L
   141 mEq/L
   30.3 %
   7.9 K/uL
        [image002.jpg]
                             [**2191-5-16**]  12:26 PM
                             [**2191-5-17**]  02:59 AM
                             [**2191-5-18**]  03:43 AM
                             [**2191-5-19**]  04:20 AM
   WBC
   9.2
   10.7
   7.9
   Hct
   31.0
   28.9
   30.3
   Plt
   [**Telephone/Fax (3) 8662**]
   Cr
   1.1
   1.1
   0.8
   TropT
   <0.01
   Glucose
   295
   69
   107
   Other labs: PT / PTT / INR:13.5/22.1/1.2, CK / CKMB /
   Troponin-T:41/7/<0.01, Differential-Neuts:93.5 %, Lymph:4.4 %, Mono:2.0
   %, Eos:0.0 %, D-dimer:1750 ng/mL, Ca++:9.2 mg/dL, Mg++:1.2 mg/dL,
   PO4:3.7 mg/dL
   Imaging: one
   Microbiology: GRAM STAIN (Final [**2191-5-18**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   Assessment and Plan
 NAUSEA / VOMITING
 DYSPNEA (SHORTNESS OF BREATH)
 HEMOPTYSIS
 URINARY TRACT INFECTION (UTI)
   Ms. [**Known lastname 3007**] is a 54 yo F with PMH sarcoidosis, tracheostomy [**3-14**] upper
   airway obstruction, dCHF, DM1, pulmonary HTN, CAD, morbid obesity
   presenting with dyspnea, nausea and vomiting.
   .
   #Dyspnea - etiology unclear however ddx most likely pneumonia vs
   tracheobronchitis vs PE.  Aspiration pneumonia also possible given that
   she is also vomiting and has poor mobility.  Sputum cx from last
   admission with two colonies of pseudomonas, one sensitive to zosyn
   other with intermed sensi to zosyn.  Her CXR was consistent with
   pulmonary edema on repeat examination..  She does not have any h/o DVT
   or PE in the past despite multpile admissions for dyspnea.  In
   addition, her partner reports a slower onset of symptoms with a
   productive cough.  Of note, after suctioning she did have frank blood,
   possibly [**3-14**] trauma from suctioning.
   -given CT chest findings not concerning for pneumonia, off abx
   -continue guaifenesin
   -sputum culture- no organisms
   -flovent, albuterol, atrovent mdi
   -no need bronch, difficult given diameter trach
   - IP consult to eval trach- rec 6 uncuffed trach today
   .
   #Hemoptysis - unclear etiology, possibly [**3-14**] trauma from suctioning vs
   underlying sarcoid lung disease. Vs new trach collar placement
   -resolved, CT chest with no concern for pulmonary hemorrhage
   .
   #.Nausea, vomiting - most likely due to migraine headache and
   gastroparesis.  Possibly also related to possible UTI on review of
   records she has had n/v with UTI in the past.  Cardiac ischemia also
   possible given her known CAD.  Other consideration incarcerated hernia
   given that the hernia site is firm to palpation and she is reporting
   increased tenderness at the site.  Likely related to gastroparesis
   -CT showed small bowel hernia
   - reducible on exam, surgery following
   .
   #Urinary Tract Infection - UA on admission c/w UTI vs contamination
   from chronic foley, concern for possiblility that UA was not full
   treated on last admission as zosyn was not included on D/C medications.
   -f/u urine culture with GNR
   -changed foley
   - hold Rx for now as asymptomatic and chronic foley
   .
   # Headache: sx consistent with migraine.
   -reglan, morphine prn
   .
   # Type I Diabetes:
   -increased lantus 38 units qhs, hiss
   .
   # CAD: concern for possible slight EKG changes on admission
   - ruled out for ACS
   -continue BB, statin
   - restart ASA and plavix given no procedures
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Comments: improved
   Lines:
   20 Gauge - [**2191-5-16**] 12:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. Her hypoxemia and
   dyspnea are improved. Her trach will be changed back to a cuffless
   one.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2191-5-19**] 14:16 ------

2191-05-20 08:08:00 Physician Resident Progress Note
Chief Complaint: hypoxia
   24 Hour Events:
 CALLED OUT
   Uncuffed trach placed yesterday
   History obtained from Patient
   Allergies:
   History obtained from PatientVancomycin
   Rash; mouth ulc
   Iodine; Iodine Containing
   Nausea/Vomiting
   Unknown;
   Ibuprofen
   Renal Toxicity;
   Levofloxacin
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-5-19**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-5-20**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 72 (62 - 85) bpm
   BP: 135/55(75) {113/47(60) - 152/89(93)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
                  Total In:
                                                                    700 mL
                                                                    740 mL
   PO:
                                                                    600 mL
                                                                    740 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,200 mL
                                                                    325 mL
   Urine:
                                                                  3,200 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,500 mL
                                                                    415 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///38/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   209 K/uL
   11.6 g/dL
   134 mg/dL
   0.8 mg/dL
   38 mEq/L
   3.5 mEq/L
   26 mg/dL
   95 mEq/L
   140 mEq/L
   33.7 %
   8.3 K/uL
        [image002.jpg]
                             [**2191-5-16**]  12:26 PM
                             [**2191-5-17**]  02:59 AM
                             [**2191-5-18**]  03:43 AM
                             [**2191-5-19**]  04:20 AM
                             [**2191-5-20**]  04:06 AM
   WBC
   9.2
   10.7
   7.9
   8.3
   Hct
   31.0
   28.9
   30.3
   33.7
   Plt
   [**Telephone/Fax (3) 8679**]09
   Cr
   1.1
   1.1
   0.8
   0.8
   TropT
   <0.01
   Glucose
   295
   69
   107
   134
   Other labs: PT / PTT / INR:13.5/22.1/1.2, CK / CKMB /
   Troponin-T:41/7/<0.01, Differential-Neuts:93.5 %, Lymph:4.4 %, Mono:2.0
   %, Eos:0.0 %, D-dimer:1750 ng/mL, Ca++:9.9 mg/dL, Mg++:1.3 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
 DYSPNEA (SHORTNESS OF BREATH)
 HEMOPTYSIS
 URINARY TRACT INFECTION (UTI)
   Ms. [**Known lastname 3007**] is a 54 yo F with PMH sarcoidosis, tracheostomy [**3-14**] upper
   airway obstruction, dCHF, DM1, pulmonary HTN, CAD, morbid obesity
   presenting with dyspnea, nausea and vomiting.
   .
   #Dyspnea - etiology unclear however ddx most likely pneumonia vs
   tracheobronchitis vs PE.  Aspiration pneumonia also possible given that
   she is also vomiting and has poor mobility.  Sputum cx from last
   admission with two colonies of pseudomonas, one sensitive to zosyn
   other with intermed sensi to zosyn.  Her CXR was consistent with
   pulmonary edema on repeat examination..  She does not have any h/o DVT
   or PE in the past despite multpile admissions for dyspnea.  In
   addition, her partner reports a slower onset of symptoms with a
   productive cough.  Of note, after suctioning she did have frank blood,
   possibly [**3-14**] trauma from suctioning.
   - given CT chest findings not concerning for pneumonia, off abx
   - continue guaifenesin
   - sputum culture- no organisms
   - flovent, albuterol, atrovent mdi
   - no need bronch, difficult given diameter trach
   - 6 uncuffed trach changed yesterday
   - continue diuresis
   .
   # Chronic dHF
   - continue PO lasic and lopressor for HR control
   .
   #Hemoptysis - unclear etiology, possibly [**3-14**] trauma from suctioning vs
   underlying sarcoid lung disease. Vs new trach collar placement
   -resolved, CT chest with no concern for pulmonary hemorrhage
   .
   #.Nausea, vomiting - most likely due to migraine headache and
   gastroparesis.  Possibly also related to possible UTI on review of
   records she has had n/v with UTI in the past.  Cardiac ischemia also
   possible given her known CAD.  Other consideration incarcerated hernia
   given that the hernia site is firm to palpation and she is reporting
   increased tenderness at the site.  Likely related to gastroparesis
   -CT showed small bowel hernia
   - reducible on exam, surgery following
   .
   #Urinary Tract Infection - UA on admission c/w UTI vs contamination
   from chronic foley, concern for possiblility that UA was not full
   treated on last admission as zosyn was not included on D/C medications.
   - will not treat urine culture with GNR
   - changed foley
   .
   # Headache: sx consistent with migraine.
   -reglan, morphine prn
   .
   # Type I Diabetes:
   - Lantus 38 units qhs, hiss
   .
   # CAD: concern for possible slight EKG changes on admission
   - ruled out for ACS
   - continue lopressor, statin
   - ASA and plavix
   - consider inpatient pMIBI per primary floor team given this may
   contribute to episodes of hypoxemia and she is unable to stay out of
   the hospital long enough to make an outpatient appointment.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2191-5-16**] 12:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 885**], MD
   on:[**2191-5-20**] 10:51 ------